US04582824
In a mixture of 70 ml of dry toluene and 3.6 ml of triethylamine is dissolved 7.08 g (2×10-2 moles) of tricosanoic acid, and 6.6 g (2.4×10-1 moles) of diphenylphosphorylazide is added dropwise at room temperature. The mixture is stirred at room temperature for 3 hours, concentrated to one-third of its original volume, and refluxed for 1.5 hours. After cooling, 30 ml of pyridine and 7.84 g (7.4×10-2 moles) of 2-methoxy-1,3-propyleneglycol. The mixture is stirred at room temperature overnight and concentrated to dryness under reduced pressure. Water is added to the residue, followed by extraction with chloroform. The chloroform layer is washed with water and dried over sodium sulfate. The solvent is then distilled off and the residue is purified by silica gel (100 g) column chromatography. The chloroform eluate fraction is concentrated to dryness to give 4.3 g (47%) of 3-(N-docosylcarbamoyloxy)-2-methoxy-1-propanol as a colorless powder.

reactant | tricosanoic acid | 2×10-2 moles, 7.08 g | C(CCCCCCCCCCCCCCCCCCCCCC)(=O)O | C23H46O2
reactant | diphenylphosphorylazide | 2.4×10-1 moles, 6.6 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-methoxy-1,3-propyleneglycol | 7.4×10-2 moles, 7.84 g | COC(CO)CO | C4H10O3
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
product | 3-(N-docosylcarbamoyloxy)-2-methoxy-1-propanol | 4.3 g, 47% | C(CCCCCCCCCCCCCCCCCCCCC)NC(=O)OCC(CO)OC | C27H55NO4
